US04550166
A mixture of 4.0 g of 6'-chloro-2,2'-bipyridine and 10 ml of anhydrous hydrazine in 50 ml of dry pyridine was refluxed for 48 hours. Additional hydrazine (10 ml) was added and the solution was refluxed for an additional 72 hours while 5 ml portions of hydrazine were added at 18 hour intervals. The volatiles were removed under vacuum, the residue dissolved in ether, dried over sodium sulfate and concentrated to a solid. This solid was recrystallized from ether-heptane, giving 3.0 g of 6'-hydrazino-2,2'-bipyridine as white crystals, mp 69°-70° C.

reactant | 6'-chloro-2,2'-bipyridine | 4.0 g | ClC1=CC=CC(=N1)C1=NC=CC=C1 | C10H7ClN2
reactant | hydrazine | 10 ml | NN | H4N2
reactant | hydrazine | 10 ml | NN | H4N2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6'-hydrazino-2,2'-bipyridine | 3.0 g | N(N)C1=CC=CC(=N1)C1=NC=CC=C1 | C10H10N4
